US04521413
A mixture of 3-[N-(2-formyloxyethyl)formamido]-pyridine (7.01 g) and sodium bicarbonate (3.04 g) in a mixed solution of tetrahydrofuran (60 ml) and water (110 ml) was stirred for 8 hours at 45° to 46° C. The reaction mixture was extracted with a mixed solvent of chloroform and ethanol (1:1) and the extract was evaporated. The residue was dissolved in a mixed solvent of chloroform and ethanol (4:1) and subjected to column chromatography on silica gel (150 g). The elution was carried out with the same solvent and the fractions containing an object compound were collected and evaporated to give 3-[N-(2-hydroxyethyl)formamido]pyridine (4.60 g) as an oil.

reactant | 3-[N-(2-formyloxyethyl)formamido]-pyridine | 7.01 g | C(=O)OCCN(C=O)C=1C=NC=CC1 | C9H10N2O3
reactant | sodium bicarbonate | 3.04 g | C([O-])(O)=O.[Na+]
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 110 ml | O | H2O
product | 3-[N-(2-hydroxyethyl)formamido]pyridine | 4.60 g | OCCN(C=O)C=1C=NC=CC1 | C8H10N2O2
